US07498337B2
1-[5-(6′-chloro-2,3′-bipyridin-5-yl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine 0.5 fumarate
tert-Butyl{[5-(6′-chloro-2,3′-bipyridin-5-yl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (100 mg) was dissolved in ethanol (8 mL), a 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added and the mixture was stirred at 70° C. for 30 min. The reaction mixture was concentrated under reduced pressure, a saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: ethyl acetate-methanol=99:1→19:1) to give a free salt of the title compound. The obtained free salt was dissolved in ethyl acetate (8 mL), a solution of fumaric acid (116 mg) in methanol (2 mL) was added, and the obtained crystals were collected by filtration to give the title compound as colorless crystals (yield 61 mg, 66%).

reactant | tert-Butyl{[5-(6′-chloro-2,3′-bipyridin-5-yl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 100 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C=1C=CC(=NC1)C=1C=NC(=CC1)Cl)S(=O)(=O)C=1C=NC=CC1)=O | C26H26ClN5O4S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 2 mL | C(C)(=O)OCC.Cl
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 1-[5-(6′-chloro-2,3′-bipyridin-5-yl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine | ClC1=CC=C(C=N1)C1=NC=C(C=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CNC | C21H18ClN5O2S
